US07615641B2
Commercial SOCl2 (>99.5) and nicotinic acid (>99.5) were used without any further purification. To a three-necked flask was added nicotinic acid (16.9 g, 0.137 mol) under dry nitrogen atmosphere, and commercial SOCl2 (50 ml, 0.685 mol) was added dropwise. The mixture was heated to reflux for 3 hours and SOCl2 was evaporated under dry nitrogen atmosphere. After cooling to room temperature, 1-octacosanol (23.45 g, 0.057 mol) and CHCl3 (300 ml, dried anhydrous Na2SO4) were added to the nicotinic chloride and the mixture was heated to reflux for 4 hours. After cooling to room temperature overnight, the mixture was filtered under reduced pressure. The precipitate was dissolved in warm CHCl3 (800 ml) and then saturated NaHCO3 (100 ml) was added slowly. After stirring at room temperature for 1 hour, the organic layer was separated, washed with deionized water, brine and then dried over anhydrous Na2SO4. After the removal of the organic solvent, the residue was dissolved in warm CHCl3 (150 ml) and concentrated HCl (5 ml) was added with vigorous stirring for 30 minutes. The mixture was filtered under reduced pressure and the precipitate was washed with deoinized water, 95% EtOH, to obtain the product octacosanyl nicotinate hydrochloride (28.4 g, 90.3% yield, mp: 58-60° C.) as a pale yellow solid, and then re-crystallized with CHCl3 to give 24.3 g of octacosanyl nicotinate hydrochloride in yield 77.3%, mp: 74-75° C.

reactant | nicotinic acid | 0.137 mol, 16.9 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | SOCl2 | 0.685 mol, 50 ml | O=S(Cl)Cl | Cl2OS
reactant | 1-octacosanol | 0.057 mol, 23.45 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)O | C28H58O
reactant | nicotinic chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | octacosanyl nicotinate hydrochloride | 28.4 g, 90.3% yield | Cl.C(C1=CN=CC=C1)(=O)OCCCCCCCCCCCCCCCCCCCCCCCCCCCC | InChI=1S/C34H61NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-25-26-27-31-37-34(36)33-29-28-30-35-32-33;/h28-30,32H,2-27,31H2,1H3;1H
